### PR TITLE
[Merged by Bors] - feat(RingTheory/LocalProperties): flatness is a local property

### PR DESCRIPTION
**Pull request by su00000**
This PR proves that flat is a local property.
Main results:
1. `flat_of_localization_maximal` : Let `M` be a module over `CommRing R`. If the localization  of `M` at each maximal ideal `P` is flat over `R_p`, then `M` is flat over `R`.
2. `flat_of_localization_span` : Let `M` be a module over `CommRing R` and `S` be a set that  spans `R`. If the localization of `M` at `s : S` is flat over `Localization.Away s`,  then `M` is flat over `R`.
3. `flat_iff_of_localization` : Let `R_p` a localization of `CommRing R` and `M` be a module over `R_p`. Then `M` is flat over `R` if and only if `M` is flat over `R_p`

- [x] depends on: #19080 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/LocalProperties/Flat.lean [hunk 1]
```diff
@@ -0,0 +1,214 @@
...
+  simp only [coe_comp, LinearEquiv.coe_coe, EquivLike.injective_comp] at inj
+  exact inj
+end flatlocal
+
+section flatifflocal
+
+variable (R R' : Type*) [CommRing R] [CommRing R'] [Algebra R R'] (S : Submonoid R)
+  [IsLocalization S R']
+include S
+instance : Module.Flat R (Localization S) := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Flat.lean:173]: Sorry but this is already added into Mathlib, by myself: [Localization.flat](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Flat/Localization.html#Localization.flat). See [discussions on Zulip](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Puzzles.20around.20Picard.20group/near/480318967).

File: Mathlib/RingTheory/LocalProperties/Flat.lean [hunk 2]
```diff
@@ -0,0 +1,214 @@
...
+    tensor_eqv_local_apply, one_smul]
+
+end Tensor
+
+section flatlocal
+variable {R : Type*} (M N : Type*) [CommRing R] (S : Submonoid R) [AddCommGroup M] [Module R M]
+  [AddCommGroup N] [Module R N]
+
+theorem Flat_of_localization_maximal (h : ∀ (J : Ideal R) (_ : J.IsMaximal),
+    Module.Flat (Localization.AtPrime J) (LocalizedModule J.primeCompl M)) : Module.Flat R M := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Flat.lean:99]: It's possible to shorten these two proofs considerably and get rid of the auxiliary defs by proving equality between the two maps $(M \otimes I)_J \to M_J$ and $(M \otimes I)_J \cong R_J \otimes (M \otimes I) \cong (R_J \otimes M)\otimes I \cong M_J \otimes I \to M_J$ (where all tensor products are over R). Please refer to [this commit](https://github.com/leanprover-community/mathlib4/commit/4b3bc835188889a809182c7d32c2cdff519b0046).

File: Mathlib/RingTheory/LocalProperties/Flat.lean [hunk 3]
```diff
@@ -0,0 +1,214 @@
...
+
+## Main Results
+
+* `Flat_of_localization_maximal` : Let `M` be a module over `CommRing R`. If the localization
+  of `M` at each maximal ideal `P` is flat over `R_p`, then `M` is flat over `R`.
+* `Flat_of_localization_finitespan` : Let `M` be a module over `CommRing R` and `S` be a set that
+  spans `R`. If the localization of `M` at `s : S` is flat over `Localization.Away s`,
+  then `M` is flat over `R`.
+* `flat_iff_localization` : Let `R_p` a localization of `CommRing R` and `M` be a module over `R_p`.
+  Then `M` is flat over `R` if and only if `M` is flat over `R_p`.
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Flat.lean:21]: Since you're not using LaTeX, it's better to change R_p to Rₚ.
```suggestion
* `Flat_of_localization_maximal` : Let `M` be a module over `CommRing R`. If the localization
  of `M` at each maximal ideal `P` is flat over `R_p`, then `M` is flat over `R`.
* `Flat_of_localization_finitespan` : Let `M` be a module over `CommRing R` and `S` be a set that
  spans `R`. If the localization of `M` at each `s : S` is flat over `Localization.Away s`,
  then `M` is flat over `R`.
* `flat_iff_localization` : Let `R_p` a localization of `CommRing R` and `M` be a module over `R_p`.
  Then `M` is flat over `R` if and only if `M` is flat over `R_p`.
```

File: Mathlib/RingTheory/LocalProperties/Flat.lean [hunk 4]
```diff
@@ -0,0 +1,214 @@
...
+lemma IsLocalization.Flat : Module.Flat R R' :=
+  (Module.Flat.of_linearEquiv R (Localization S) R' (Localization.algEquiv S R').symm)
+
+variable {M' : Type*} [AddCommGroup M'] [Module R M'] [Module R' M'] [IsScalarTower R R' M']
+
+theorem flat_iff_localization : Module.Flat R' M' ↔ Module.Flat R M' := by
+  letI := isLocalizedModule_id S M' R'
+  letI := IsLocalization.Flat R R' S
+  exact ⟨fun h ↦ Module.Flat.comp R R' M',
+    fun h ↦ Module.Flat.of_isLocalizedModule R' S LinearMap.id⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/LocalProperties/Flat.lean:212]: This can go to the end of Mathlib.RingTheory.Flat.Stability, I believe.

**Comment by alreadydone** [comment]
Looks great! In my branch I've moved a lemma and fixed namespace/capitalization issues: https://github.com/leanprover-community/mathlib4/compare/flat_local...flat_local_demo?expand=1

**Review by alreadydone — APPROVED** [review]
Thanks, LGTM! I'd recommend merging master just to be safe. The increase of import in the leaf file Mathlib.RingTheory.Flat.Localization is reasonable.

**Comment by alreadydone** [comment]
@chrisflav Could you please take a look and send this to maintainers if it looks good? I think I made too many changes for me to qualify.

File: Mathlib/RingTheory/Flat/Localization.lean [hunk 5]
```diff
@@ -3,21 +3,30 @@ Copyright (c) 2024 Junyan Xu. All rights reserved.
...
 # Flatness and localization
 
-In this file we show that localizations are flat, and flatness is a local property (TODO).
+In this file we show that localizations are flat, and flatness is a local property.
 
 ## Main result
-- `IsLocalization.flat`: a localization of a commutative ring is flat over it.
+* `IsLocalization.flat`: a localization of a commutative ring is flat over it.
+* `Module.flat_iff_localization` : Let `Rₚ` a localization of `CommRing R` and `M` be a module
+  over `Rₚ`. Then `M` is flat over `R` if and only if `M` is flat over `Rₚ`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Flat/Localization.lean:17]:
```suggestion
* `Module.flat_iff_localization` : Let `Rₚ` be a localization of a commutative ring `R` and `M` be a module
  over `Rₚ`. Then `M` is flat over `R` if and only if `M` is flat over `Rₚ`.
```

Comment (chrisflav) [reply Mathlib/RingTheory/Flat/Localization.lean:17]: (similarly below)

File: Mathlib/RingTheory/Flat/Localization.lean [hunk 6]
```diff
@@ -30,3 +39,65 @@ theorem IsLocalization.flat : Module.Flat R S :=
     simpa [this, - Subtype.val_injective] using Subtype.val_injective
 
 instance Localization.flat : Module.Flat R (Localization p) := IsLocalization.flat _ p
+
+namespace Module
+
+include p in
+theorem flat_iff_localization : Flat S M ↔ Flat R M :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/Flat/Localization.lean:46]:
```suggestion
theorem flat_iff_flat_of_isLocalization : Flat S M ↔ Flat R M :=
```
or possibly `flat_iff_of_isLocalization`.

File: Mathlib/RingTheory/Flat/Localization.lean [hunk 7]
```diff
@@ -30,3 +39,65 @@ theorem IsLocalization.flat : Module.Flat R S :=
...
+private lemma aux (I : Ideal R) (s : Submonoid R) :
+    have hM := isBaseChange s (Localization s) (mkLinearMap s M)
+    have hIM := isBaseChange s (Localization s) (mkLinearMap s (I ⊗[R] M))
+    let e := (hIM.equiv.restrictScalars R).symm ≪≫ₗ
+      leftComm _ _ _ _ ≪≫ₗ (hM.equiv.restrictScalars R).lTensor I
+    LocalizedModule.map s (TensorProduct.lift <| lsmul R M ∘ₗ I.subtype) =
+      TensorProduct.lift (lsmul R (LocalizedModule s M) ∘ₗ I.subtype) ∘ₗ e.toLinearMap := by
+  refine linearMap_ext s (mkLinearMap s _) (mkLinearMap s _) ?_
+  ext m i
+  show LocalizedModule.map s _ _ = _
```
Comment (chrisflav) [inline Mathlib/RingTheory/Flat/Localization.lean:60]: Can we get rid of this `show`?

File: Mathlib/RingTheory/Flat/Localization.lean [hunk 8]
```diff
@@ -30,3 +39,65 @@ theorem IsLocalization.flat : Module.Flat R S :=
...
+  rw [mkLinearMap_apply]
```
Comment (alreadydone) [inline Mathlib/RingTheory/Flat/Localization.lean:61]: This gets rids of the `show`: it's just a bit long to write. The main reason it can't be a single `simp` call is there are two places where `rw [mkLinearMap_apply]` would fire, but we must control it to rewrite precisely one place for the proof to work.
```suggestion
  rw [AlgebraTensorModule.curry_apply, curry_apply, restrictScalars_apply, LinearMap.comp_apply,
    restrictScalars_apply, mkLinearMap_apply]
```

Comment (chrisflav) [reply Mathlib/RingTheory/Flat/Localization.lean:61]: Even if its lengthy, I still prefer this over the `show`.

**Comment by chrisflav** [comment]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
bors d+

**Comment by alreadydone** [comment]
Looks like my `aux` lemma now times out ... investigating ...

File: Mathlib/RingTheory/Flat/Localization.lean [hunk 9]
```diff
@@ -58,7 +58,8 @@ private lemma aux (I : Ideal R) (s : Submonoid R) :
   refine linearMap_ext s (mkLinearMap s _) (mkLinearMap s _) ?_
   ext m i
   rw [AlgebraTensorModule.curry_apply, curry_apply, restrictScalars_apply, LinearMap.comp_apply,
-    restrictScalars_apply, mkLinearMap_apply]
+    restrictScalars_apply, mkLinearMap_apply, AlgebraTensorModule.curry_apply, curry_apply,
+    restrictScalars_apply]
```
Comment (alreadydone) [inline Mathlib/RingTheory/Flat/Localization.lean:62]: Somehow we must get rid of the `restrictScalars` now, otherwise `simp` times out.

**Comment by alreadydone** [comment]
@su00000 Just a reminder that this PR has been delegated to you. You can merge it into mathlib by replying `bors r+`.
